US05948820
(3) 2-Acetamido-4-(4-hydroxyphenyl)butyl acetate
To a solution of 2-acetamido-4-(4-benzyloxyphenyl)butyl acetate (8.32 g) in ethanol (150 ml), 10% palladium-carbon (1 g) was added and the mixture was stirred, under a hydrogen atmosphere, at room temperature for 8.5 hours. Then, the catalyst was filtered off and the solvent was distilled away under reduced pressure. Ethanol (200 ml) and 10% pallladium-carbon (1 g) were added to the residue and the mixture was further stirred, under a hydrogen atmosphere, at room temperature for 3.5 hours. The catalyst was filtered off from the reaction solution and the solvent was distilled away under reduced pressure. The residue was subjected to silica gel chromatography (eluent; ethyl acetate-hexane=1:4) to give the subject compound (5.80 g).

reactant | 2-acetamido-4-(4-benzyloxyphenyl)butyl acetate | 8.32 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C)=O | C21H25NO4
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1 g | [C].[Pd]
product | 2-Acetamido-4-(4-hydroxyphenyl)butyl acetate | 5.80 g | C(C)(=O)OCC(CCC1=CC=C(C=C1)O)NC(C)=O | C14H19NO4
